US05133890
N-(3,5-di-tert-butyl-4-hydroxyphenyl)-carbamic acid octyl ester.
N,N'-Bis-(3,5-di-tert-butyl-4-hydroxyphenylpropionyl)-hexamet hylene-diamine, N,N'-bis-(3,5-di-tert-butyl-4-hydroxyphenylpropionyl)-tri-met hylene-diamine, N,N'-bis-(3,5-di-tert-butyl-4-hydroxyphenyl-propionyl)-hydraz ine.

reactant | N,N'-Bis-(3,5-di-tert-butyl-4-hydroxyphenylpropionyl)-hexamet hylene-diamine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCCCCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C40H64N2O4
reactant | N,N'-bis-(3,5-di-tert-butyl-4-hydroxyphenylpropionyl)-tri-met hylene-diamine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C37H58N2O4
reactant | N,N'-bis-(3,5-di-tert-butyl-4-hydroxyphenyl-propionyl)-hydraz ine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C34H52N2O4
product | N-(3,5-di-tert-butyl-4-hydroxyphenyl)-carbamic acid octyl ester | C(CCCCCCC)OC(NC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C23H39NO3
